US07910595B2
Ethyl 1-amino-2,3-dihydro-1H-indene-1-carboxylate
Thionyl chloride (0.617 mL, 8.465 mmol) was added dropwise to anhydrous ethanol (6 mL) cooled to −30° followed by 1-amino-2,3-dihydro-1H-indene-1-carboxylic acid (0.300 g, 1.693 mmol) the reaction was then refluxed for 4 hours. The reaction was concentrated by rotary evaporation and diluted with water (5 mL) and the pH was adjusted to 9 with 6N aqueous sodium hydroxide. The solution was extracted with ethyl acetate (2×25 mL) and the organic extracts were washed with brine (25 mL), dried over sodium sulfate, filtered, and concentrated by rotary evaporation to afford the title compound as an oil (0.293 g, 1.43 mmol, 84%). 1H NMR (300 MHz, DMSO-D6) δ ppm 1.12 (t, J=7.17 Hz, 3 H) 1.85-2.07 (m, 1 H) 2.31 (s, 2 H) 2.51-2.66 (m, 1 H) 2.93 (t, J=6.99 Hz, 2 H) 3.90-4.21 (m, 2 H) 7.13-7.34 (m, 4 H). MS (DCI) m/z 206 (M+H)+, 223 (M+NH4)+.

reactant | Thionyl chloride | 8.465 mmol, 0.617 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 1-amino-2,3-dihydro-1H-indene-1-carboxylic acid | 1.693 mmol, 0.300 g | NC1(CCC2=CC=CC=C12)C(=O)O | C10H11NO2
reactant | ethanol | 6 mL | C(C)O | C2H6O
product | Ethyl 1-amino-2,3-dihydro-1H-indene-1-carboxylate | 1.43 mmol, 0.293 g, 84% | NC1(CCC2=CC=CC=C12)C(=O)OCC | C12H15NO2
